US08633182B2
1-(4-Bromo-3,5-dimethyl-phenoxy)-2-methyl-propan-2-ol
4-Bromo-3,5-dimethylphenol (4.0 g), isobutylene oxide (2.0 g) and Cs2CO3 (9.7 g) in N,N-dimethylformamide (10 mL) are stirred at 100° C. for 20 h. After cooling the mixture is partitioned between water and EtOAc, the organic layer dried (MgSO4) and concentrated. Purification of the residue by column chromatography (silica gel, n-hexane:EtOAc 100:0 to 50:50 gradient) gives the desired compound (5.6 g, content ca. 97%).

reactant | 4-Bromo-3,5-dimethylphenol | 4.0 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | isobutylene oxide | 2.0 g | CC1(C)CO1 | C4H8O
reactant | Cs2CO3 | 9.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(4-Bromo-3,5-dimethyl-phenoxy)-2-methyl-propan-2-ol | 5.6 g, ca. 97% | BrC1=C(C=C(OCC(C)(O)C)C=C1C)C | C12H17BrO2
